US04927855
A suspension of 16.45 g (0.06 mol) of (-)-benzhydrylsulfinylacetic acid in 300 ml of water is treated at 20° C. with 16.8 g (0.2 mol) of sodium bicarbonate and 18.8 ml (0.21 mol) of methyls sulfate, with stirring, the mixture is stirred for 16 to 18 hours at 20° C. and filtered and the material on the filter is washed with water and dried to give methyl (-)-benzhydrylsulfinylacetate with a yield of 85%.

reactant | (-)-benzhydrylsulfinylacetic acid | 0.06 mol, 16.45 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)S(=O)CC(=O)O | C15H14O3S
reactant | sodium bicarbonate | 0.2 mol, 16.8 g | C([O-])(O)=O.[Na+]
reactant | sulfate | S(=O)(=O)([O-])[O-]
solvent | water | 300 ml | O | H2O
product | methyl (-)-benzhydrylsulfinylacetate | yield of 85% | C(C1=CC=CC=C1)(C1=CC=CC=C1)S(=O)CC(=O)OC | C16H16O3S
